US04017620
To a stirred solution of 26.6 g. of 2-amino-3-(2-chlorobenzoyl)-5-ethylthiophene in 200 ml. of acetic acid and 30 ml. of concentrated hydrochloric acid is added dropwise a solution of 7.0 g. of sodium nitrite in 30 ml. of water under cooling on an ice-sodium chloride bath to prepare the corresponding diazonium salt solution. Then, the diazonium salt solution is added dropwise under cooling and stirring into a solution of 18.0 g. of ethyl 2-chloroacetoacetate and 40 g. of potassium acetate in 400 ml. of water. After the addition, the resulting solution is further stirred at room temperature for 1 hour, diluted with water and extracted with ether. After the ether layer is washed with water and dried over sodium sulfate, the solvent is removed by distillation The residue is dissolved in a mixture of ether and n-hexane and passed through a column containing 1 kg. of silica gel. Then, the fractions eluted with a mixture of ether and n-hexane (1:4) is combined and evaporated. The residue is crystallized from n-hexane to give ethyl [3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]azochloroacetate as crystals. Recrystallization from ethanol gives yellow needles melting at 55° to 57° C.

reactant | 2-amino-3-(2-chlorobenzoyl)-5-ethylthiophene | NC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C13H12ClNOS
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | ethyl 2-chloroacetoacetate | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl [3-(2-chlorobenzoyl)-5-ethyl-2-thienyl]azochloroacetate | ClC1=C(C(=O)C2=C(SC(=C2)CC)N=NC(C(=O)OCC)Cl)C=CC=C1 | C17H16Cl2N2O3S
